US07812043B2
(2-{[1-(Benzyl)-1H-pyrrole-2-carbonyl]-amino}-thiazol-4-yl) acetic acid ethyl ester (60 mg) was prepared from 1-benzyl-pyrrole-2-carboxylic acid (50 mg, 0.25 mmol) and 2-aminothiazol-4-yl acetic acid ethyl ester (47 mg, 0.25 mmol) following general procedure F.

reactant | 1-benzyl-pyrrole-2-carboxylic acid | 0.25 mmol, 50 mg | C(C1=CC=CC=C1)N1C(=CC=C1)C(=O)O | C12H11NO2
reactant | 2-aminothiazol-4-yl acetic acid ethyl ester | 0.25 mmol, 47 mg | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
product | (2-{[1-(Benzyl)-1H-pyrrole-2-carbonyl]-amino}-thiazol-4-yl) acetic acid ethyl ester | 60 mg | C(C)OC(CC=1N=C(SC1)NC(=O)C=1N(C=CC1)CC1=CC=CC=C1)=O | C19H19N3O3S
